US03939267
The starting material is prepared as follows: The mixture of 38.8 g 4-chloro-5-chlorosulfonyl-3-nitrobenzoic acid, 39.9 g of 2-aminoacetanilide and 150 ml of dimethylformamide is stirred for 2 1/2 hours at room temperature. It is poured into 1.7 1t of water and 20 ml of concentrated hydrochloric acid while stirring, the precipitate formed is filtered off and washed with water. It is dissolved in 600 ml of hot ethanol, 900 ml of hot water are added, the mixture filtered and the filtrate left in the cold, to yield the 4-chloro-5-(2-acetamidophenylsulfamoyl)-3-nitrobenzoic acid melting at 225°-227° with decomposition.

reactant | 4-chloro-5-chlorosulfonyl-3-nitrobenzoic acid | 38.8 g | ClC1=C(C=C(C(=O)O)C=C1S(=O)(=O)Cl)[N+](=O)[O-] | C7H3Cl2NO6S
reactant | 2-aminoacetanilide | 39.9 g | NCC(=O)NC1=CC=CC=C1 | C8H10N2O
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | hydrochloric acid | 20 ml | Cl | ClH
solvent | water | O | H2O
product | 4-chloro-5-(2-acetamidophenylsulfamoyl)-3-nitrobenzoic acid | ClC1=C(C=C(C(=O)O)C=C1S(NC1=C(C=CC=C1)NC(C)=O)(=O)=O)[N+](=O)[O-] | C15H12ClN3O7S
